US06818774B2
a) 6-Methoxy-3,4-dihydro-2H-isoquinolin-1-one
Sulfuric acid (82.6 mL) was carefully added, at 0° C., to 5-methoxy-1-indanone (25 g, 154 mmol) in benzene (400 mL) followed by sodium azide (18 g, 277.4 mmol). The resulting mixture was heated at 60° C. for 24 h. After cooling at room temperature, the benzene was evaporated and the resulting mixture was diluted with water and extracted with dichloromethane. After drying of the organic layer with MgSO4, filtration and evaporation the product was obtained as a white solid after purification by chromatography (SiO2, ethyl acetate/n-hexane 1:1 to 4:1 v:v gradient) (13.2 g, 49%). MS: m/e=177.2 (M+)

reactant | Sulfuric acid | 82.6 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-methoxy-1-indanone | 154 mmol, 25 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | sodium azide | 277.4 mmol, 18 g | [N-]=[N+]=[N-].[Na+]
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 6-Methoxy-3,4-dihydro-2H-isoquinolin-1-one | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
